US04206217
225 g of 3-(4'-methylphenyl)-1,2-benzisothiazole are heated to 170° C. in a stirred apparatus and 100 g of chlorine are passed in over 2 hours whilst irradiating the mixture with a UV lamp. The end point of the reaction is determined by gas chromatography (disappearance of the starting material). The reaction mixture is then cooled and the product is filtered off and recrystallized from methanol. 208 g of 3-(4-chloromethylphenyl)-1,2-benzisothiazole, melting at 86°-89° C., are obtained; this yield corresponds to 80% of theory.

reactant | 3-(4'-methylphenyl)-1,2-benzisothiazole | 225 g | CC1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | C14H11NS
reactant | chlorine | 100 g | ClCl | Cl2
product | 3-(4-chloromethylphenyl)-1,2-benzisothiazole | 208 g, 78% yield | ClCC1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | C14H10ClNS
